US07799775B2
To 10 ml of 4N-hydrochloric acid-dioxane solution, 53 mg of 3-amino-6-tert-butoxycarbonyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4,3-d]pyrimidin-4-one as synthesized in above Step 4-44-A was added and stirred for 18 hours at room temperature. The solution was neutralized with saturated aqueous sodium hydrogencarbonate solution, extracted with ethyl acetate, dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified on silica gel column chromatography (chloroform:methanol=9:1) to provide 39 mg (90%) of 3-amino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4,3-d]pyrimidin-4-one.

reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | 3-amino-6-tert-butoxycarbonyl-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4,3-d]pyrimidin-4-one | 53 mg | NN1C(=NC2=C(C1=O)CN(CC2)C(=O)OC(C)(C)C)CCCCN2CCN(CC2)C2=NC1=CC=CC=C1C=C2 | C29H39N7O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 3-amino-2-[4-(4-quinolin-2-ylpiperazin-1-yl)butyl]-5,6,7,8-tetrahydro-3H-pyrido[4,3-d]pyrimidin-4-one | 39 mg, 90% | NN1C(=NC2=C(C1=O)CNCC2)CCCCN2CCN(CC2)C2=NC1=CC=CC=C1C=C2 | C24H31N7O
